US09315462B2
Compound 27: 4-(6-hydroxyquinolin-2-yl)-3-methylbenzoic acid
Followed Scheme 3: Starting Materials: 2-chloroquinolin-6-ol and methyl 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate. 1H NMR (DMSO-d6, 400 MHz): δ 10.45 (brs, 1H), 8.61-8.46 (m, 1H), 8.03 (d, J=8.8 Hz, 1H), 7.96 (s, 1H), 7.92 (d, J=8.0 Hz, 1H), 7.78 (d, J=8.8 Hz, 1H), 7.66 (d, J=8.0 Hz, 1H), 7.50 (d, J=8.0 Hz, 1H), 7.35 (s, 1H), 2.42 (s, 3H). MS (ESI): m/z 279.9 [M+H]+.

reactant | 2-chloroquinolin-6-ol | ClC1=NC2=CC=C(C=C2C=C1)O | C9H6ClNO
reactant | methyl 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | CC=1C=C(C(=O)OC)C=CC1B1OC(C(O1)(C)C)(C)C | C15H21BO4
product | 4-(6-hydroxyquinolin-2-yl)-3-methylbenzoic acid | OC=1C=C2C=CC(=NC2=CC1)C1=C(C=C(C(=O)O)C=C1)C | C17H13NO3
